US08334456B2
Step 2: Preparation of 4,8-bis(2-ethylhexyl)-2,6-bis-trimethlstannylbenzo[1,2-b:4,5-b′]dithiophene.
To a solution of 4,8-bis(2-ethylhexyl)benzo[1,2-b:4,5-b′]dithiophene (237 mg, 0.57 mmol) in dry tetrahydrofuran (11 mL) was added n-butyllithium (2.5 M in hexane, 0.5 mL, 1.25 mmol) at −78° C. After 1 hour, trimethyltin chloride (264 mg, 1.32 mmol) was added in one portion. The mixture was stirred at room temperature for 2 hours, poured into water (20 mL) and extracted with ether three times. The organic layer was washed with brine and dried over anhydrous MgSO4. Upon evaporating the solvent, a pale yellow oil was obtained (437 mg, yield 100%). Upon standing in a freezer for 2 days, pale yellow crystals emerged and were collected (326 mg, yield 77%). 1H NMR (CDCl3, 500 MHz) δ=7.51 (s, 2H), 3.07-3.23 (m, 4H), 1.96-2.07 (m, 2H), 1.21-1.50 (m, 16H), 0.94 (t, J=7.0 Hz, 6H), 0.89 (t, J=7.0 Hz, 6H), 0.46 (s, 18H).

reactant | 4,8-bis(2-ethylhexyl)benzo[1,2-b:4,5-b′]dithiophene | 0.57 mmol, 237 mg | C(C)C(CC1=C2C(SC=C2)=C(C2=C1SC=C2)CC(CCCC)CC)CCCC | C26H38S2
reactant | n-butyllithium | 1.25 mmol, 2.5 M, 0.5 mL | C(CCC)[Li]
reactant | trimethyltin chloride | 1.32 mmol, 264 mg | C[Sn](C)(C)Cl
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 4,8-bis(2-ethylhexyl)-2,6-bis-trimethlstannylbenzo[1,2-b:4,5-b′]dithiophene | yield 100% | C(C)C(CC1=C2C(SC(=C2)[Sn](C)(C)C)=C(C2=C1SC(=C2)[Sn](C)(C)C)CC(CCCC)CC)CCCC | InChI=1S/C26H36S2.6CH3.2Sn/c1-5-9-11-19(7-3)17-23-21-13-15-28-26(21)24(22-14-16-27-25(22)23)18-20(8-4)12-10-6-2;;;;;;;;/h13-14,19-20H,5-12,17-18H2,1-4H3;6*1H3;;
